US05760035
A mixture of 4-(2-piperidinoethyl)piperidine (3.27 g), 2-bromoethyl phenyl ether (3.35 g), triethylamine (2.3 ml) and DMF (50 ml) was heated on a steam bath for 16 hours. The mixture was worked up as described in Example 16. The crude solid hydrochloride was treated with sodium bicarbonate solution and the mixture extracted with dichloromethane to give the free base which was purified by flash chromatography on silica using methanol/triethylamine, 99:1 as the mobile phase. The oil obtained was dissolved in ether and acidified with ethereal hydrogen chloride to give 1-(2-phenoxyethyl)-4-(2-piperidinoethyl)piperidine dihydrochloride, m.p. 285° C.

reactant | 4-(2-piperidinoethyl)piperidine | 3.27 g | N1(CCCCC1)CCC1CCNCC1 | C12H24N2
reactant | 2-bromoethyl phenyl ether | 3.35 g | C1(=CC=CC=C1)OCCBr | C8H9BrO
reactant | hydrochloride | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ether | CCOCC | C4H10O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 2.3 ml | C(C)N(CC)CC | C6H15N
product | 1-(2-phenoxyethyl)-4-(2-piperidinoethyl)piperidine dihydrochloride | Cl.Cl.O(C1=CC=CC=C1)CCN1CCC(CC1)CCN1CCCCC1 | InChI=1S/C20H32N2O.2ClH/c1-3-7-20(8-4-1)23-18-17-22-15-10-19(11-16-22)9-14-21-12-5-2-6-13-21;;/h1,3-4,7-8,19H,2,5-6,9-18H2;2*1H
